US07601844B2
(±)-cis-Methyl 3-(methylcarbamoyl)cyclohexanecarboxylate (460 mg, 2.309 mmol) was dissolved in Acetonitrile (5 mL) at 25° C. under nitrogen with stirring, then sodium azide (150 mg, 2.309 mmol) was added. Cooled to 0° C. then added trifluoromethanesulfonic anhydride (0.390 mL, 2.309 mmol) dropwise over 2 minutes. The reaction was a colorless solution. Stirred for 20 hours then added sat'd sodium bicarbonate and stirred for 15 minutes, then added a little EtOAc and concentrated in vacuo the acetonitrile. Added more EtOAc and separated the layers. The EtOAc layer was rinsed again with sat'd sodium bicarbonate then 1 time with brine. The EtOAc layer was dried over sodium sulfate and stripped to give of a colorless oil. Obtained (±)-cis-methyl 3-(1-methyl-1H-tetrazol-5-yl)cyclohexanecarboxylate (350 mg, 1.561 mmol, 68% yield) as a colorless oil for product. MS found: (M+H)+=225.00.

reactant | (±)-cis-Methyl 3-(methylcarbamoyl)cyclohexanecarboxylate | 2.309 mmol, 460 mg | CNC(=O)[C@H]1C[C@H](CCC1)C(=O)OC | C10H17NO3
reactant | sodium azide | 2.309 mmol, 150 mg | [N-]=[N+]=[N-].[Na+]
reactant | trifluoromethanesulfonic anhydride | 2.309 mmol, 0.390 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-cis-methyl 3-(1-methyl-1H-tetrazol-5-yl)cyclohexanecarboxylate | 1.561 mmol, 350 mg, 68% yield | CN1N=NN=C1[C@H]1C[C@H](CCC1)C(=O)OC | C10H16N4O2
